US07902187B2
8-methyl-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine.
Anhydrous ethanol (4 mL) was added to an argon-purged vial containing 6-chloro-8-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine (140 mg, 0.52 mmol), pyridine-4-yl-boronic acid (97 mg, 0.79 mmol, 1.5 equiv.), K2CO3 (109 mg, 0.79 mmol, 1.5 equiv.), and Pd(PPh3)4 (30 mg, 0.026 mmol, 0.05 equiv.) and the mixture was heated for 30 min in the microwave oven at 150° C. After cooling to ambient temperature, the reaction mixture was diluted with methanol (8 mL), filtered through a Nylon 0.45 μm filter and the filtrate concentrated in vacuo. Preparative HPLC purification of the residue afforded, after evaporation and drying, the desired compound as an orange solid (160 mg, 99% yield). TFA salt. 1H NMR (300 MHz, CD3OD) δ, ppm: 9.09 (d, J=6.6 Hz, 2H), 8.95 (d, J=6.2 Hz, 2H), 4.61-4.52 (m, 1H), 4.11 (dd, J=11.5, 4.5 Hz, 2H), 3.61 (app t, J=11.3 Hz, 2H), 2.96-2.82 (m, 2H), 2.68 (s, 3H), 1.84 (dd, J=12.7, 2.3 Hz, 2H); MS (EI) m/z 311.3 (MH)+.

reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | 6-chloro-8-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine | 0.52 mmol, 140 mg | ClC1=C2N=C(N(C2=NC(=N1)N)C1CCOCC1)C | C11H14ClN5O
reactant | pyridine-4-yl-boronic acid | 0.79 mmol, 97 mg, 1.5 equiv. | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 0.79 mmol, 109 mg, 1.5 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 8 mL | CO | CH4O
catalyst | Pd(PPh3)4 | 0.026 mmol, 30 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-methyl-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine | 160 mg, 99% yield | CC=1N(C2=NC(=NC(=C2N1)C1=CC=NC=C1)N)C1CCOCC1 | C16H18N6O
